US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3-methylbutyl)ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 3-methylbutanol accord-ing to the procedure of Example 1 as an off-white foam (HCl salt); 1H NMR (CDCl3) δ 0.90 (d, 12H), 1.35 (d, 2H), 1.55-1.80 (m, 6H), 2.70-2.85 (m, 1H), 3.45-3.55 (m, 3H), 4.30 (t, 4H), 5.45 (bd, 1H), 5.65 (bs, 1H), 6.70-6.80 (m, 1 H), 6.80-6.90 (m, 3H), 7.25-7.35 (m, 3H), 7.43 (s, 1H), 8.74 (bs, 1H), 10.08 (bs, 1H); IR (KBr): 3303 cm-1 (--OH), 1765 cm-1 (C=O); MS (ES) m/z 562.4 (MH+); [α]D25 -24° (c, 1.0, CHCl3). Anal. Calcd. for C30H40ClNO7 ·HCl: C, 60.20; H, 6.74; N, 2.34; Cl, 11.85. Found: C, 59.98; H, 7.04; N, 2.24; Cl, 12.09.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 3-methylbutanol | CC(CCO)C | C5H12O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3-methylbutyl)ester | CC(CCOC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCCC(C)C)C | C30H40ClNO7
